US03947593
A mixture of 15.5 g (0.05 mole) of N-ethyl-3,6-carbazolediol diacetate, 17.2 g (0.1 mole) of 2-diethylaminoethylchloride hydrochloride, 10.8 g (0.2 mole) of sodium methoxide and 400 ml of chlorobenzene is refluxed for 24 hours. Upon cooling, the reaction mixture is filtered, and the filtrate is washed with several portions of water, dried over anhydrous magnesium sulfate, diluted with ether and acidified with ethereal HCl. The resulting precipitate is separated and recrystallized from methanol-ethyl acetate to give 3,6-bis(2-diethylaminoethoxy)-N-ethylcarbazole dihydrochloride. M.P. 208°-210°C.

reactant | N-ethyl-3,6-carbazolediol diacetate | 0.05 mole, 15.5 g | C(C)(=O)OC=1C=CC=2N(C3=CC=C(C=C3C2C1)OC(C)=O)CC | C18H17NO4
reactant | 2-diethylaminoethylchloride hydrochloride | 0.1 mole, 17.2 g | Cl.C(C)N(CCCl)CC
reactant | sodium methoxide | 0.2 mole, 10.8 g | C[O-].[Na+]
solvent | chlorobenzene | 400 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3,6-bis(2-diethylaminoethoxy)-N-ethylcarbazole dihydrochloride | Cl.Cl.C(C)N(CCOC=1C=CC=2N(C3=CC=C(C=C3C2C1)OCCN(CC)CC)CC)CC | InChI=1S/C26H39N3O2.2ClH/c1-6-27(7-2)15-17-30-21-11-13-25-23(19-21)24-20-22(12-14-26(24)29(25)10-5)31-18-16-28(8-3)9-4;;/h11-14,19-20H,6-10,15-18H2,1-5H3;2*1H
